US06900216B2
A solution of benzo[b]thiophene-4-carbonitrile (24.2 g) in ether (200 ml) was added under nitrogen over 10 minutes to ethylmagnesium chloride (2M solution in ether; 250 ml), then the stirred mixture was heated under reflux for 1 hour, cooled to ambient temperature and poured into crushed ice (100 ml). The mixture was stirred for 30 minutes, then 5M hydrochloric acid (250 ml) was added. The acidic layer was separated, heated to 90° C. for 20 minutes, then allowed to cool to ambient temperature. The product was extracted into ether (500+250 ml), the combined extracts were washed with water (250 ml) and saturated aqueous sodium chloride solution (150 ml), then they were dried (MgSO4) and the solvent was removed in vacuo to give 1-(benzo[b]thiophen-4-yl)propan-1-one (18.25 g) as a colourless oil which was used without further purification.

reactant | benzo[b]thiophene-4-carbonitrile | 24.2 g | S1C2=C(C=C1)C(=CC=C2)C#N | C9H5NS
reactant | ethylmagnesium chloride | 2M, 250 ml | C(C)[Mg]Cl
reactant | hydrochloric acid | 5M, 250 ml | Cl | ClH
reactant | ether | 200 ml | CCOCC | C4H10O
product | 1-(benzo[b]thiophen-4-yl)propan-1-one | 18.25 g | S1C2=C(C=C1)C(=CC=C2)C(CC)=O | C11H10OS
